US07129238B2
To a stirred solution of (RS)-(2-amino-4-cyano-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide (470 mg) in DMF (8 ml) were added iodoacetamide (376 mg) and N-ethyldiisopropylamine (0.34 ml). After 50 hrs stirring at 110° C. under argon atmosphere. The mixture was diluted with EtOAc and water. The organic phase was separated and washed with water and brine, dried ovef MgSO4, filtered and concentrated. The crude product was purified by flash chromatography (CH2Cl2=>CH2Cl2/MeOH 4:1) to give (RS)-[2-(carbamoylmethyl-amino)-4-cyano-benzyl]-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide (133 mg) as an off-white solid. MS 415.1([M+H]+)

reactant | (RS)-(2-amino-4-cyano-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide | 470 mg | NC1=C(CC(C(=O)N)(C2=C(C=C(C=C2)OC)F)OCC)C=CC(=C1)C#N | C19H20FN3O3
reactant | iodoacetamide | 376 mg | ICC(=O)N | C2H4INO
reactant | N-ethyldiisopropylamine | 0.34 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (RS)-[2-(carbamoylmethyl-amino)-4-cyano-benzyl]-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide | 133 mg | C(N)(=O)CNC1=C(CC(C(=O)N)(C2=C(C=C(C=C2)OC)F)OCC)C=CC(=C1)C#N | C21H23FN4O4
